US09278986B2
2.5 g of carbazole, 2 g of bromobenzene and 0.064 g of a palladium acetate catalyst were dissolved in 40 mL of toluene, and the resulting solution was heated to 60° C. Subsequently, a solution of 1.5 g of sodium butoxide and 0.385 g of tri-tert-butylphosphine dissolved in toluene was slowly added dropwise. The mixture was refluxed at a steady 100° C. After completion of the reaction, the reaction mixture was extracted with dichloromethane and distilled water, and the solvent was dried. The resulting solid was filtered and purified, yielding a 9-phenyl carbazole compound as an intermediate.

reactant | carbazole | 2.5 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | bromobenzene | 2 g | BrC1=CC=CC=C1 | C6H5Br
reactant | sodium butoxide | 1.5 g | [O-]CCCC.[Na+]
reactant | tri-tert-butylphosphine | 0.385 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | palladium acetate | 0.064 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 9-phenyl carbazole | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=CC=CC12 | C18H13N
